US05856573
Methoxyamine hydrochloride (0.22 g, 0.0026 mol) was dissolved in methanol (2 ml), and a 28% sodium methoxide-methanol solution (0.58 g, 0.003 mol) was added to the solution to obtain a suspension. A mixed solution of 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-N-methyl-2-oxoacetamide (0.53 g, 0.002 mol) and methanol (2 ml) was added to the suspension. The mixture was stirred under reflux for 3 hours, and then cooled to room temperature. After cooling, p-toluenesulfonic acid monohydrate (0.19 g, 0.001 mol) was added, and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, half-saturated brine (80 ml) was added, and the mixture was extracted with dichloromethane (50 ml) twice. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide (0.37 g, Yield: 83.2%, E/Z=97/3) as colorless crystals.

reactant | Methoxyamine hydrochloride | 0.0026 mol, 0.22 g | Cl.CON
reactant | sodium methoxide methanol | 0.003 mol, 0.58 g | C[O-].[Na+].CO
reactant | 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-N-methyl-2-oxoacetamide | 0.002 mol, 0.53 g | C(C)OC(C)OCC1=C(C=CC=C1)C(C(=O)NC)=O | C14H19NO4
reactant | p-toluenesulfonic acid monohydrate | 0.001 mol, 0.19 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 2 ml | CO | CH4O
solvent | brine | 80 ml | [Cl-].[Na+].O
solvent | methanol | 2 ml | CO | CH4O
product | 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide | 0.37 g, Yield: 83.2% | OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C11H14N2O3
